US08809363B2
Step 4: tert-Butoxy-(2-methyl-4-p-tolyl-5,8-dihydro-6H-7-oxa-9-thia-1-aza-fluoren-3-yl)-acetic acid ethyl ester
Tert-Butyl acetate (0.8 mL) was added to a solution of hydroxy-(2-methyl-4-p-tolyl-5,8-dihydro-6H-7-oxa-9-thia-1-aza-fluoren-3-yl)-acetic acid ethyl ester (100 mg, 0.252 mmol) in dichloromethane (0.8 mL) followed by concentrated sulphuric acid (40 μL) and the reaction stirred at room temperature for 2 hours. Sodium bicarbonate solution (10% aqueous, 2 mL) was added and the reaction evaporated in vacuo until only the aqueous remained. The aqueous was extracted with ethyl acetate (2 mL) and the organic layer washed with brine (1 mL), dried and concentrated in vacuo. The residue was purified by flash chromatography on silica eluting with 0-30% ethyl acetate/heptanes to afford a colourless solid (66 mg, 45%). LCMS (12 min acidic) 7.25 min, ES+/AP+ 454 (MH+)

reactant | Tert-Butyl acetate | 0.8 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | hydroxy-(2-methyl-4-p-tolyl-5,8-dihydro-6H-7-oxa-9-thia-1-aza-fluoren-3-yl)-acetic acid ethyl ester | 0.252 mmol, 100 mg | C(C)OC(C(C=1C(=NC=2SC=3COCCC3C2C1C1=CC=C(C=C1)C)C)O)=O | C22H23NO4S
reactant | sulphuric acid | 40 μL | S(O)(O)(=O)=O | H2O4S
reactant | Sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 0.8 mL | ClCCl | CH2Cl2
product | tert-Butoxy-(2-methyl-4-p-tolyl-5,8-dihydro-6H-7-oxa-9-thia-1-aza-fluoren-3-yl)-acetic acid ethyl ester | 66 mg, 45% | C(C)OC(C(C=1C(=NC=2SC=3COCCC3C2C1C1=CC=C(C=C1)C)C)OC(C)(C)C)=O | C26H31NO4S
